Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine / prochlorperazine / coconut oil / coconut
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year-old lady with h/o multiple CVA with 
residual weakness ___ on xarelto), DVT/PE while on 
Coumadin, chronic pain, right knee meniscectomy (___), 
Roux-en-Y gastric bypass, chronic abdominal pain, polysubstance 
abuse, on rivaroxaban who now presents with chest pain that is 
excacerbated with deep inspiration.  

Patient reports that pain started 4 days ago (___) before 
worsening yesterday and today to ___. The pain is described as 
a constant pressure localized to the midsternal region, 
exacerbated by motion and breathing, and alleviated only 
partially by remaining still. She also described the pain as the 
pressure of "someone sitting on my chest" with prior h/o 
localization to the back.  
 In the ED, the patient reported chest pain that radiated to her 
left arm, concerning for ACS. The patient denied recent trauma, 
shortness of breath, diaphoresis, n/v, fever, chills, headaches, 
URI symptoms, or abdominal pain.  
 
 
Past Medical History:
- s/p cholecystectomy and gastric bypass (___), with f/u 
complicated by multiple ex lap, gastrectomy, reversal surgery, 
failed J-tube c/b colonic perforation  
- multiple SBO during f/u from above  
- hernia repair  
- abdominal pain  
- asthma  
- peptic ulcer disease  
- osteoarthritis  
- narcotic abuse  
- depression  
- anxiety  
- tobacco abuse  
- muscle weakness / myelopathy  
- cardiac evaluation  
- gastroesophageal reflux  
- lower back pain  
- lower extremity edema  
- DVT c/b PE  
- vulvar folliculitis  
- arthorplasty - right total knee  
- stroke - left sided  
- hepatitis C - positive ab test, negative HCV viral load in 2x 
tests  
- nephrolithiasis  
- thyromegaly - TSH wnl, low free T4  
- h/o HTN and DMII, resolved after gastric bypass per patient  
 
Social History:
___
Family History:
Mother with diabetes and HTN. Brother with CHF.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VITALS: 98.5 PO ___ 17 97 ra  
General: AOx3, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, no 
pinpoint pupils, slight ptosis of left eyelid  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding, incisions consistent 
with previous surgery  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, spine non tender to palpation  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII intact with reduced sensation on left side of 
face and slight droop of left eye ___ strength upper/lower 
extremities, grossly normal sensation, 2+ reflexes bilaterally. 

DISCHARGE PHYSICAL EXAM
VITALS: 90.5 Fahrenheit, 80, 124/85, 18, 90% on room air.
General: AOx3, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL
CV: Regular rate and rhythm, normal S1 + S2, ___ RUSB SEM, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi.  Lidocaine patch on chest.
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding, incisions consistent
with previous surgery  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema, spine non tender to palpation
Skin: Warm, dry, no rashes or notable lesions.   
Neuro: CNII-XII, grossly normal sensation, 2+ reflexes
bilaterally. 
 
Pertinent Results:
ADMISSION LABS
___ 03:10PM BLOOD WBC-4.3 RBC-3.37* Hgb-10.5* Hct-33.0* 
MCV-98 MCH-31.2 MCHC-31.8* RDW-17.5* RDWSD-63.2* Plt ___
___ 03:10PM BLOOD Neuts-58.6 ___ Monos-6.3 Eos-0.5* 
Baso-0.7 Im ___ AbsNeut-2.50 AbsLymp-1.44 AbsMono-0.27 
AbsEos-0.02* AbsBaso-0.03
___ 03:10PM BLOOD Glucose-72 UreaN-16 Creat-0.9 Na-144 
K-4.5 Cl-105 HCO3-27 AnGap-12
___ 03:10PM BLOOD proBNP-195
___ 03:10PM BLOOD cTropnT-<0.01

PERTINENT RESULTS
___ EKG
No signs of acute ischemia

___ CXR
Noacutecardiopulmonaryabnormality.

___ CTA CHEST
HEART AND VASCULATURE: Pulmonary vasculature is well opacified 
to the
subsegmental level without filling defect to indicate a 
pulmonary embolus. The thoracic aorta is normal in caliber 
without evidence of dissection or
intramural hematoma.  Left vertebral artery arises directly from 
the aortic
arch, a normal variant.  The heart, pericardium, and great 
vessels are within normal limits. No pericardial effusion is 
seen.
 
AXILLA, HILA, AND MEDIASTINUM: No axillary, mediastinal, or 
hilar
lymphadenopathy is present.  No mediastinal mass.
 
PLEURAL SPACES: No pleural effusion or pneumothorax.
 
LUNGS/AIRWAYS: Lungs are clear without masses or areas of 
parenchymal
opacification.  There is mild bibasilar atelectasis.  The 
airways are patent
to the level of the segmental bronchi bilaterally.
 
BASE OF NECK: Visualized portions of the base of the neck show 
no abnormality.
 
ABDOMEN:  Included portion of the upper abdomen is notable for 
surgical clips of the visualized proximal stomach, consistent 
with known history of gastric bypass.  Low attenuation of the 
liver is compatible with stated ptosis.
 
BONES: No suspicious osseous abnormality is seen.? There is no 
acute fracture.
 
IMPRESSION: 
No evidence of pulmonary embolism or aortic abnormality.

___ Transthoracic echocardiogram
The left atrium and right atrium are normal in cavity size. Left 
ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). The estimated cardiac 
index is normal (>=2.5L/min/m2). Right ventricular chamber size 
and free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. There is mild 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. 

Compared with the prior study (images reviewed) of ___, the 
estimated pulmonary pressure is slightly greater; mild pulmonary 
hypertension is suggested. 

___ CARDIAC STRESS TEST
INTERPRETATION: This ___ year old woman with h/o CVA and PE was
referred to the lab for evaluation of chest pain. The patient 
was
admininstered 0.4 mg of Regadenoson IV bolus over 20 seconds. 
The
patient presented with ___ left sided chest discomfort, worse 
with
inspiration. No reported change in discomfort throughout the 
study.
There were no significant ST segment changes throughout the 
study. The
rhythm was sinus with no ectopy throughout the study. 
Appropriate
hemodynamic response to the infusion. Post-MIBI, 125 mg of
Aminophylline IV was administered.

IMPRESSION: Non-anginal type symptoms in the absence of ischemic 
EKG
changes. Nuclear report sent separately.

___ CARDIAC PERSANTINE PERFUSION TEST
The image quality is adequate but limited due to soft tissue and 
breast
attenuation. Left ventricular cavity size is normal.   
Rest and stress perfusion images reveal uniform tracer uptake 
throughout the left ventricular myocardium.  
Gated images reveal normal wall motion. 
The calculated left ventricular ejection fraction is 65% with an 
EDV of 70 ml. 
 
IMPRESSION:
1. Normal myocardial perfusion.
2. Normal left ventricular cavity size and systolic function.  

 
Brief Hospital Course:
Ms. ___ is a ___ year-old lady with h/o multiple CVA with
residual weakness ___ while on xarelto), DVT/PE on
rivaroxaban, chronic pain, Roux-en-Y gastric bypass, chronic
abdominal pain, polysubstance use disorder who presented with
inspiratory chest pain concerning for atypical chest pain versus
ischemia.

ACUTE ISSUES

#CHEST PAIN
Patient presented with several day history of chest pain that 
was worsened on exertion. Noted to be increasing pain with 
inspiration. Could not localize on herself, was not positional 
in nature, and without radiation to arm or neck. She was worked 
up for infectious etiologies which was negative, CTA which ruled 
out PE, EKG which demonstrated no signs of ischemia on 
presentation, transthoracic echocardiogram which demonstrated no 
signs of pericardial fluid concerning for pericarditis, and 
Persantine stress echo which demonstrated no signs of ischemic 
change with stress and normal myocardial perfusion. Of note, her 
transthoracic echocardiogram demonstrated worsening pulmonary 
artery pressure determined to be mild pulmonary hypertension. 
She was determined to be atypical chest pain, likely 
costochondritis, with lidocaine patch to area on chest. NSAIDs 
were not an option due to her underlying allergy. Patient's 
symptoms improved after lidocaine patch therapy and continued to 
subside at discharge.

CHRONIC ISSUES

#CHRONIC PAIN
Her chronic abdominal pain was managed with her home methadone, 
gabapentin, and Dilaudid.

#SEVERE MALNUTRITION
Patient has severe malnutrition in context of chronic illness 
related to poor PO intake as evidenced by 12.9% weight loss x5 
months and <75% energy intake compared to estimated energy needs 
for > 1 month.  Her barriers to nutritional intake include 
decreased stomach capacity and decreased appetite.  She was seen 
by nutrition and PO intake was encouraged.  She will need 
further evaluation and encouragement for nutritional 
supplementation as an outpatient.

TRANSITIONAL ISSUES
- Lidocaine patch daily to L. chest where inspiratory pain is 
localized.
- Follow up with Dr. ___ evaluation of chest pain, 
follow up for mild pulmonary hypertension on TTE.
- Carnation instant breakfast BID
- Continue home medications as prescribed. 
# Code status: Full
# Health care proxy/emergency contact: ___ (mother), 
___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lactulose 15 mL PO BID:PRN constipation 
2. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild 
3. Gabapentin 200 mg PO TID 
4. BuPROPion 150 mg PO BID 
5. QUEtiapine Fumarate 75 mg PO QHS 
6. ClonazePAM 0.5 mg PO DAILY 
7. Docusate Sodium 100 mg PO BID 
8. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
9. Senna 8.6 mg PO BID 
10. Rivaroxaban 20 mg PO DAILY 
11. Ranitidine 150 mg PO DAILY 
12. Ferrous Sulfate 325 mg PO DAILY 
13. Multivitamins 1 TAB PO DAILY 
14. HYDROmorphone (Dilaudid) 2 mg PO BID 
15. Methadone 20 mg PO TID 
16. Promethazine 6.25 mg PO BID 
17. Sucralfate 1 gm PO QID 
18. Pantoprazole 40 mg PO Q12H 
19. DULoxetine 20 mg PO DAILY 
20. Doxepin HCl 100 mg PO HS 
21. Cyanocobalamin 100 mcg PO DAILY 
22. FoLIC Acid 1 mg PO DAILY 
23. Thiamine 100 mg PO DAILY 
24. Ascorbic Acid ___ mg PO DAILY 
25. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Lidocaine 5% Patch 1 PTCH TD QAM 
To painful area on chest 
RX *lidocaine 5 % Apply to painful area of chest QAM Disp #*15 
Patch Refills:*0 
2.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild  
3.  Ascorbic Acid ___ mg PO DAILY  
4.  BuPROPion 150 mg PO BID  
5.  ClonazePAM 0.5 mg PO DAILY  
6.  Cyanocobalamin 100 mcg PO DAILY  
7.  Docusate Sodium 100 mg PO BID  
8.  Doxepin HCl 100 mg PO HS  
9.  DULoxetine 20 mg PO DAILY  
10.  Ferrous Sulfate 325 mg PO DAILY  
11.  FoLIC Acid 1 mg PO DAILY  
12.  Gabapentin 200 mg PO TID  
13.  HYDROmorphone (Dilaudid) 2 mg PO BID  
14.  Lactulose 15 mL PO BID:PRN constipation  
15.  Methadone 20 mg PO TID  
16.  Multivitamins 1 TAB PO DAILY  
17.  Pantoprazole 40 mg PO Q12H  
18.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
19.  Promethazine 6.25 mg PO BID  
20.  QUEtiapine Fumarate 75 mg PO QHS  
21.  Ranitidine 150 mg PO DAILY  
22.  Rivaroxaban 20 mg PO DAILY  
23.  Senna 8.6 mg PO BID  
24.  Sucralfate 1 gm PO QID  
25.  Thiamine 100 mg PO DAILY  
26.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Atypical chest pain consistent with costochondritis

SECONDARY DIAGNOSIS
Pulmonary hypertension
Hypoglycemia
Chronic pain
Substance use disorder in remission
History of stroke
History of DVT/PE
Depression
Anxiety
Severe malnutrition

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

WHAT BROUGHT YOU INTO THE HOSPITAL?
- You were admitted for chest pain on exertion. 

WHAT WAS DONE FOR YOU IN THE HOSPITAL?
- Your heart was evaluated for signs of a heart attack, which 
was negative.
- You were found to not have any blood clots in your lungs.
- Your pain was controlled.

WHAT SHOULD YOU DO AFTER LEAVING THE HOSPITAL?
- You should continue putting on the lidocaine patches to 
control your chest pain.
- You should follow up with your PCP ___ on ___ 
at 2:30 ___ to follow up your chest pain.

 
Followup Instructions:
___